US04284642
3-Trifluoromethylaniline is reacted with 1,2-epoxypropane as described in Example 3, Method (b), point (a) to obtain N-(β-hydroxypropyl)-3-trifluoromethyl-aniline with a yield of 61.5%; b.p.: 112°-118° C./0.5 mm Hg.

reactant | 3-Trifluoromethylaniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | 1,2-epoxypropane | O1CC1C | C3H6O
product | N-(β-hydroxypropyl)-3-trifluoromethyl-aniline | yield of 61.5% | OC(CNC1=CC(=CC=C1)C(F)(F)F)C | C10H12F3NO
